US09260427B2
To a solution of (S)-2-((tert-butoxycarbonyl)amino)-3-(4-cyanophenyl)propanoic acid (1.0 g, 3.44 mmol) in MeOH (20 mL) at 0° C. was slowly added thionyl chloride (818.1 mg, 6.89 mmol) over 1 h. The reaction was warmed to room temperature and stirred for 1 h. The solvent was removed under reduced pressure. The reaction mixture was washed with saturated aqueous NaHCO3 (20 ml) and extracted with DCM (3×10 ml). The organic layer was dried over MgSO4 and concentrated. The crude product was purified by chromatography (EA/hexanes) to afford 789 mg (97%) of (S)-methyl 2-amino-3-(4-cyanophenyl)propanoate as the HCl salt. LCMS-ESI (M/z) calculated for C11H12N2O2; 204.1. found 205.0 [M+H]+, tR=3.25 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.69 (s, 3H), 7.83 (d, J=8.3 Hz, 2H), 7.51 (t, J=8.8 Hz, 2H), 4.37 (t, J=6.7 Hz, 1H), 3.68 (s, 3H), 3.23 (qd, J=14.4, 7.7 Hz, 2H).

reactant | (S)-2-((tert-butoxycarbonyl)amino)-3-(4-cyanophenyl)propanoic acid | 3.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C#N | C15H18N2O4
reactant | thionyl chloride | 6.89 mmol, 818.1 mg | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 20 mL | CO | CH4O
product | (S)-methyl 2-amino-3-(4-cyanophenyl)propanoate | 789 mg, 97% | N[C@H](C(=O)OC)CC1=CC=C(C=C1)C#N | C11H12N2O2
